US07579473B2
To a round bottom flask equipped with a magnetic stir bar was added 7-Benzyloxy-6-methoxy-1H-quinolin-4-one (12.2 g, 43.3 mmol, 1.0 eq.), acetonitrile (150 ml), DMF (150 ml) and cesium carbonate (28.2 g, 86.5 mmol, 2.0 eq). The mixture was stirred at room temperature for 30 minutes at which time 1,2-difluoro-4-nitro-benzene (7.57 g, 47.6 mmol, 1.1 eq) was added over a 10 minute period. After 2 hours the reaction was complete at which time 75% of the MeCN and DMF was removed and the resulting solution was poured over into ice water. The solid was filtered and dried and further columned with a biotage system. The eluent was 1:3 ethyl acetate/hexane. Removal of the solvent afforded 7-Benzyloxy-4-(2-fluoro-4-nitro-phenoxy)-6-methoxy-quinoline as a pale green solid (7.4 g, 41% yield). 1H NMR (400 MHz, CDCl3): 8.53 (d, 1H), 8.42 (dd, 1H), 8.16 (m, 1H), 7.5 (m, 8H), 6.76 (d, 1H), 5.31 (s, 2H), 3.92 (s, 3H); MS (EI) for C23H27FN2O5: 421 (MH+).

reactant | 7-Benzyloxy-6-methoxy-1H-quinolin-4-one | 43.3 mmol, 12.2 g, 1.0 eq. | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)OC | C17H15NO3
reactant | cesium carbonate | 86.5 mmol, 28.2 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-difluoro-4-nitro-benzene | 47.6 mmol, 7.57 g, 1.1 eq | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeCN | CC#N | C2H3N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 7-Benzyloxy-4-(2-fluoro-4-nitro-phenoxy)-6-methoxy-quinoline | 7.4 g, 41% yield | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)OC | C23H17FN2O5
